US06506901B2
Step C: (2S)-2-{[4-(4-{[((2R)-2-Hydroxy-2-{4-hydroxy-3-[(methylsulfonyl)amino]-phenyl}-ethyl)amino]methyl}piperidin-1-yl)benzoyl]amino}-4-methylpentanoic Acid Ethyl Ester
A solution of N-[5-(2-amino-1-{R}-hydroxyethyl)-2-hydroxyphenyl]-methane-sulfonamide (0.098 g, 0.4 mmol), (2R)-2-{[4-(4-(formyl)piperidin-1-yl)benzoyl]amino}4-methylpentanoic acid ethyl ester (0.4 mmol) and glacial acetic acid (0.023 g, 0.4 mmol) in 5 mL of methanol-THF (4:1, v/v) was stirred for 1 hour over 4A molecular sieves. In one portion sodium cyanoborohydride (0.026 g, 0.4 mmol) was added and the mixture stirred overnight at ambient temperature. The sieves were filtered and the filtrate was preabsorbed on silica gel. The solids were purified by flash chromatography (CH2Cl2—CH3OH, 20:1). to give the product (0.072 g).

reactant | N-[5-(2-amino-1-{R}-hydroxyethyl)-2-hydroxyphenyl]-methane-sulfonamide | 0.4 mmol, 0.098 g | NC[C@H](O)C=1C=CC(=C(C1)NS(=O)(=O)C)O | C9H14N2O4S
reactant | (2R)-2-{[4-(4-(formyl)piperidin-1-yl)benzoyl]amino}4-methylpentanoic acid ethyl ester | 0.4 mmol | C(C)OC([C@@H](CC(C)C)NC(C1=CC=C(C=C1)N1CCC(CC1)C=O)=O)=O | C21H30N2O4
reactant | acetic acid | 0.4 mmol, 0.023 g | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.4 mmol, 0.026 g | C(#N)[BH3-].[Na+]
solvent | methanol THF | 5 mL | CO.C1CCOC1
product | (2S)-2-{[4-(4-{[((2R)-2-Hydroxy-2-{4-hydroxy-3-[(methylsulfonyl)amino]-phenyl}-ethyl)amino]methyl}piperidin-1-yl)benzoyl]amino}-4-methylpentanoic Acid Ethyl Ester | 0.072 g | C(C)OC([C@H](CC(C)C)NC(C1=CC=C(C=C1)N1CCC(CC1)CNC[C@@H](C1=CC(=C(C=C1)O)NS(=O)(=O)C)O)=O)=O | C30H44N4O7S
